US07294716B2
2-Carbamoylmethoxy-4-{(5-methoxy-2-aminophenyl)aminosulfonyl}phenoxyacetamide (Intermediate A68)
2-Carbamoylmethoxy-4-{(5-methoxy-2-nitrophenyl)aminosulfonyl}phenoxyacetamide (Intermediate A67, 14 g, 0.031 mol) in 100 mL of dimethylacetamide was hydrogenated with platinum oxide (0.50 g, 0.0022 mol) as catalyst. After the catalyst was filtered off, the mixture was concentrated under high vacuum. The residue was triturated successively with 1:1 hexanes:ethyl acetate and 2:1 dichloromethane:hexanes. The collected solid, title compound, weighed 12.8 g (97%) after air-drying.

reactant | 2-Carbamoylmethoxy-4-{(5-methoxy-2-nitrophenyl)aminosulfonyl}phenoxyacetamide | 0.031 mol, 14 g | C(N)(=O)COC1=C(OCC(=O)N)C=CC(=C1)S(=O)(=O)NC1=C(C=CC(=C1)OC)[N+](=O)[O-] | C17H18N4O9S
solvent | dimethylacetamide | 100 mL | CC(=O)N(C)C | C4H9NO
catalyst | platinum oxide | 0.0022 mol, 0.50 g | [Pt]=O
product | 2-Carbamoylmethoxy-4-{(5-methoxy-2-aminophenyl)aminosulfonyl}phenoxyacetamide | C(N)(=O)COC1=C(OCC(=O)N)C=CC(=C1)S(=O)(=O)NC1=C(C=CC(=C1)OC)N | C17H20N4O7S
